US08703795B2
d) 4-Hydroxy-2-(4-methoxy-phenyl)-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester
The title compound was prepared from a mixture of 7-chloro-4-hydroxy-2-(4-methoxy-phenyl)-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester and 4-chloro-7-hydroxy-2-(4-methoxy-phenyl)-thieno[3,2-c]pyridine-6-carboxylic acid butyl ester, example 3-c, analogously to experimental conditions for example 1-g; with isolation of the lower Rf isomer. MS: (+) m/z 358.05 (M+1).

reactant | 7-chloro-4-hydroxy-2-(4-methoxy-phenyl)-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C=1C(=C2C(=C(N1)Cl)SC(=C2)C2=CC=C(C=C2)OC)O | C19H18ClNO4S
reactant | 4-chloro-7-hydroxy-2-(4-methoxy-phenyl)-thieno[3,2-c]pyridine-6-carboxylic acid butyl ester | C(CCC)OC(=O)C1=C(C2=C(C(=N1)Cl)C=C(S2)C2=CC=C(C=C2)OC)O | C19H18ClNO4S
product | 4-Hydroxy-2-(4-methoxy-phenyl)-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C=1C(=C2C(=CN1)SC(=C2)C2=CC=C(C=C2)OC)O | C19H19NO4S
